US04430339
The starting material 3-cycloundecylpropan-1-ol is obtained as follows: hydroxymethylcycloundecane is reacted with thionyl chloride to give chloromethylcycloundecane, which is reacted with malonic acid diethyl ester in the presence of sodium ethylate to give (cycloundecylmethyl)-malonic acid diethyl ester, which, after saponifying the ester group and decarboxylating the corresponding malonic acid, gives 3-cycloundecylpropionic acid. 3-Cycloundecylpropionic acid is reduced with lithium aluminum hydride in tetrahydrofuran to give 3-cycloundecylpropanol.

reactant | 3-Cycloundecylpropionic acid | C1(CCCCCCCCCC1)CCC(=O)O | C14H26O2
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-cycloundecylpropanol | C1(CCCCCCCCCC1)CCCO | C14H28O
